US04656179
Preparation of 1-[bis(hydroxymethyl)-methyl]-6,7-dimethoxy-3,4-dihydroisoquinoline
To 0.01 mole of 1-(β-hydroxyethyl)-6,7-dimethoxy-3,4-dihydroisoquinoline 2 ml of a 37% aqueous formaldehyde solution are added, and the mixture is boiled in 30 ml of methanol for 2 hours. After evaporation the obtained oily residue is triturated with ether. Crystallization of the obtained product from a mixture of acetone and ether affords the desired compound, which has the same spectral characteristics as the product of Example 1. Melting point: 129° to 131 C.°

reactant | 1-(β-hydroxyethyl)-6,7-dimethoxy-3,4-dihydroisoquinoline | 0.01 mole, 2 ml | OCCC1=NCCC2=CC(=C(C=C12)OC)OC | C13H17NO3
reactant | formaldehyde | C=O | CH2O
solvent | methanol | 30 ml | CO | CH4O
product | 1-[bis(hydroxymethyl)-methyl]-6,7-dimethoxy-3,4-dihydroisoquinoline | OCC(C1=NCCC2=CC(=C(C=C12)OC)OC)CO | C14H19NO4
